US05254715
Synthesis of 2,6-bis(1-methylethyl)phenyl[(dibutylamino)sulfonyl]carbamate monosodium salt
A solution of the 2,6-bis(1-methylethyl)phenyl[(dibutylamino)sulfonyl]carbamate (5.5 g, 13.3 mmol) in 75 mL tetrahydrofuran was added dropwise to a suspension of sodium hydride (0.4 g, 80% dispersion in mineral oil, 13.3 mmol) in 50 mL tetrahydrofuran at 0° C. under an atmosphere of nitrogen. Stirred for 3 hours, gradually warming to room temperature. Concentrated in vacuo and triturated with hexanes to give the title compound, mp 162°-166° C.

reactant | 2,6-bis(1-methylethyl)phenyl[(dibutylamino)sulfonyl]carbamate | 13.3 mmol, 5.5 g | CC(C)C1=C(C(=CC=C1)C(C)C)N(C([O-])=O)S(=O)(=O)N(CCCC)CCCC
reactant | sodium hydride | 13.3 mmol, 0.4 g | [H-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 2,6-bis(1-methylethyl)phenyl[(dibutylamino)sulfonyl]carbamate monosodium salt | [Na+].CC(C)C1=C(C(=CC=C1)C(C)C)N(C([O-])=O)S(=O)(=O)N(CCCC)CCCC | InChI=1S/C21H36N2O4S.Na/c1-7-9-14-22(15-10-8-2)28(26,27)23(21(24)25)20-18(16(3)4)12-11-13-19(20)17(5)6;/h11-13,16-17H,7-10,14-15H2,1-6H3,(H,24,25);/q;+1/p-1
